US05720898
A solution of 5.80 g (18.2 mM) of ethyl p-(10-undecenyl)oxybenzoate and 2.18 mg (54.6 mM) of sodium hydroxide in 4 ml of water, and 30 ml of methanol were stirred for 3 hours under heating. After the reaction, 20 ml of distilled water was added, followed by distilling-off of methanol and acidification of the solution with 6M-hydrochloric acid. The thus-produced p-(10-undecenyl)oxybenzoic acid was recovered by filtration and dried under vacuum in a dessicator to obtain 5.25 g (18.1 mM) of p-(10-undecenyl)oxybenzoic acid. Yield: 99.5% %.

reactant | ethyl p-(10-undecenyl)oxybenzoate | 18.2 mM, 5.80 g | C(CCCCCCCCC=C)OC1=CC=C(C(=O)OCC)C=C1 | C20H30O3
reactant | sodium hydroxide | 54.6 mM, 2.18 mg | [OH-].[Na+]
reactant | methanol | 30 ml | CO | CH4O
reactant | hydrochloric acid | Cl | ClH
solvent | water | 4 ml | O | H2O
solvent | water | 20 ml | O | H2O
product | p-(10-undecenyl)oxybenzoic acid | 18.1 mM, 5.25 g, Yield: 99.5% | C(CCCCCCCCC=C)OC1=CC=C(C(=O)O)C=C1 | C18H26O3
